US04786640
Step (1) Preparation of Methyl-2-(1-naphthalenyl)acetimidate Hydrochloride
To a cooled (0° C.), stirred mixture of 1-naphthylacetonitrile (9.2 g, 0.055 mol), methanol (5.0 mL, 0.124 mol), and ether (5 mL) was added acetyl chloride (5.2 g, 0.066 mol) dropwise. Stirring was continued for 30 minutes and the mixture was allowed to stand at room temperature for 60 hours. The resulting precipitate was collected by filtration, washed with ether, crushed with a mortar and pestle, and again washed with ether. The product was dried in vacuo to give a white crystalline solid (11.7 g, 91%), which was used without further purification.

reactant | 1-naphthylacetonitrile | 0.055 mol, 9.2 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | methanol | 0.124 mol, 5.0 mL | CO | CH4O
reactant | acetyl chloride | 0.066 mol, 5.2 g | C(C)(=O)Cl | C2H3ClO
solvent | ether | 5 mL | CCOCC | C4H10O
product | Methyl-2-(1-naphthalenyl)acetimidate Hydrochloride | 11.7 g, 91% | Cl.COC(CC1=CC=CC2=CC=CC=C12)=N | InChI=1S/C13H13NO.ClH/c1-15-13(14)9-11-7-4-6-10-5-2-3-8-12(10)11;/h2-8,14H,9H2,1H3;1H
